Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfonamides / Codeine / Bactrim
 
Attending: ___.
 
Chief Complaint:
abdominal pain and vomiting
 
Major Surgical or Invasive Procedure:
___ Exploratory laparotomy, lysis of adhesions, small
bowel resection with enteroenterostomy.

 
History of Present Illness:
The patient is a ___ year old woman s/p hysterectomy for uterine 
fibroids and s/p R lung resection for carcinoid tumor who is 
seen in surgical consultation for abdominal pain, nausea, and 
vomiting. The patient was feeling well until early this morning 
at approximately 1:00am, when she developed cramping abdominal 
pain associated with nausea and bilious emesis without blood.  
She
vomited approximately ___ times which prompted her presentation 
to the ED.  At the time of her emesis, she had diarrhea and 
moved her bowels > 3 times.  She has never had this or similar 
pain in the past, and she states that she has never before had a 
small bowel obstruction.  She has never had a colonoscopy. 

 

 

 
Past Medical History:
PMH: 
carcinoid tumor as above
Vitamin B12 deficiency
depression
hyperlipidemia

PSH: 
s/p R lung resection in ___ at ___
s/p hysterectomy in ___
s/p R arm surgery

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Temp 96.9  HR 105  BP 108/92 100%RA
NAD, appears non-toxic but uncomfortable
heart tachycardic but regular, no murmurs appreciated
lungs clear to auscultation; decreased breath sounds on R;
well-healed R thoracotomy scar present
abdomen soft, very obese, minimally distended, somewhat tender 
to
palpation diffusely across abdomen; no guarding; no rebound
tenderness, low midline abdominal wound c/d/i, no drainage, no 
erythema

 
Pertinent Results:
___ 04:40AM   WBC-12.5*# RBC-4.46 HGB-13.6 HCT-39.7 MCV-89 
MCH-30.5 MCHC-34.2 RDW-13.0
___ 04:40AM   NEUTS-91.1* LYMPHS-7.4* MONOS-0.8* EOS-0.3 
BASOS-0.2
___ 04:40AM   PLT COUNT-329
___ 04:40AM   GLUCOSE-151* UREA N-10 CREAT-0.8 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-28 ANION GAP-13
___ 04:40AM   ALT(SGPT)-12 AST(SGOT)-16 LD(LDH)-180 ALK 
PHOS-62 

___ CT of abdomen and pelvis :1. Slightly dilated loops of 
small bowel with fecalization of small bowel contents and distal 
collapsed loops, together indicating early complete or partial 
small-bowel obstruction. 
2. Post-surgical changes noted at the right ribs as detailed 
above.

___ CT of abdoman and pelvis :  
1. Interval worsening of small bowel obstruction. Transition 
point in the 
left mid abdomen. (The patient went to the OR on the evening of 
the study). 
2. Trace free fluid in the pelvis is likely physiologic.  

  

___ 10:57PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:57PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:57PM URINE  RBC->50 ___ BACTERIA-MOD YEAST-NONE 
EPI-0
___ 10:57PM URINE  MUCOUS-OCC
___ 04:40AM   GLUCOSE-151* UREA N-10 CREAT-0.8 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-28 ANION GAP-13
___ 04:40AM   estGFR-Using this
___ 04:40AM   ALT(SGPT)-12 AST(SGOT)-16 LD(LDH)-180 ALK 
PHOS-62 TOT BILI-0.2
___ 04:40AM   LIPASE-17
___ 04:40AM   WBC-12.5*# RBC-4.46 HGB-13.6 HCT-39.7 MCV-89 
MCH-30.5 MCHC-34.2 RDW-13.0
___ 04:40AM   NEUTS-91.1* LYMPHS-7.4* MONOS-0.8* EOS-0.3 
BASOS-0.2
___ 04:40AM   PLT COUNT-329
 
Brief Hospital Course:
This ___ year old female was admitted to the hospital and was 
made NPO, IV fluids were started and she had a nasogastric tube 
placed.  She was pan cultured for a temperature of 101 and was 
followed with serial KUB's and physical exam. Her nasogastric 
tube was clamped on hospital day 2 and she soon developed 
increased abdominal pain prompting repeat CT of abdomen and 
pelvis.  This demonstrated an increase in the degree of 
obstruction and she was subsequently taken to the operating room 
for the aforementioned procedure.

She tolerated the procedure well, remained NPO  with nasogastric 
tube in place and treated with IV fluids.  Her pain was 
initially controlled with a morphine PCA .  Her nasogastric tube 
was removed on post op day #2 and she began a clear liquid diet 
which she tolerated well.  This was gradually advanced over 36 
hours to a regular diet and was tolerated well.  She was having 
bowel movements and tolerated oral pain medication.  Her 
incision was healing well and staples were intact.  After an 
uncomplicated course she was discharged home on ___
 
Medications on Admission:
Albuteral MDI prn wheezes
Flovent inhaler prn wheezes
Srtraline 200 mg oral daily
Simvastatin 20 mg oral daily
Trazadone 100 mg oral daily at bedtime
Wellbutrin 75 mg oral twice a day
 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
wheezing, shortness of breath.  
2. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
5. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
6. Trazodone 100 mg Tablet Sig: One (1) Tablet PO at bedtime.  
7. Wellbutrin 75 mg Tablet Sig: One (1) Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
High grade small bowel obstruction

 
Discharge Condition:
Henodynamically stable, tolerating a regular diet, having bowel 
movements, adequate pain control

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.

*Avoid swimming and baths until your follow-up appointment.

*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

*If you have staples, they will be removed at your follow-up 
appointment.

*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 

 
Followup Instructions:
___